US08471005B2
2-(3-{4-[7-(2-Methanesulfonyl-2,3-dihydro-1H-isoindol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-azetidin-1-yl)-acetamide
7-(2-Methanesulfonyl-2,3-dihydro-1H-isoindol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (80 mg, 0.2 mmol), N-Phenylbis(trifluoromethanesulphonimide) (95.1 mg, 0.266 mmol), N,N-Diisopropylethylamine (0.126 mL, 0.726 mmol), and N,N-Dimethylformamide (2 mL, 30 mmol) and stir at room temperature for half an hour. Add 2-[3-(4-Amino-phenyl)-azetidin-1-yl]-acetamide (71 mg, 0.34 mmol) and stir at 60° C. overnight. The reaction was concentrated, DMSO added, filtered and placed onto the Gilson for purification. The most pure fractions were collected, basified with sat sodium bicarbonate extracted with EtOAc, dried, filtered and concentrated to give a yellow solid (8 mg, 6%). MP 216-218° C. LCMS (E/I+) 518 (M+H). NMR 1H (DMSO-d6)-9.48 (s, 1H), 9.02 (s, 1H), 7.97 (d, 1H, J=7.81 Hz), 7.64 (d, 2H, J=8.55 Hz), 7.56 (t, 1H, J=7.80 Hz), 7.44 (d, 1H, J=7.74 Hz), 7.21 (d, 2H, J=8.34 Hz), 7.12 (bs, 1H), 7.05-7.08 (m, 2H), 6.99 (d, 1H, J=4.69 Hz), 4.74 (s, 4H), 3.69 (t, 2H, J=7.40 Hz), 3.53-3.61 (m, 1H), 3.15 (t, 2H, J=6.86 Hz), 3.02 (s, 2H), 2.92 (s, 3H).

reactant | 7-(2-Methanesulfonyl-2,3-dihydro-1H-isoindol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.2 mmol, 80 mg | CS(=O)(=O)N1CC2=CC=CC(=C2C1)C1=CC=C2C=NC(=NN21)O | C15H14N4O3S
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.266 mmol, 95.1 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-Diisopropylethylamine | 0.726 mmol, 0.126 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 30 mmol, 2 mL | CN(C=O)C | C3H7NO
reactant | 2-[3-(4-Amino-phenyl)-azetidin-1-yl]-acetamide | 0.34 mmol, 71 mg | NC1=CC=C(C=C1)C1CN(C1)CC(=O)N | C11H15N3O
product | 2-(3-{4-[7-(2-Methanesulfonyl-2,3-dihydro-1H-isoindol-4-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-azetidin-1-yl)-acetamide | 8 mg, 6% | CS(=O)(=O)N1CC2=CC=CC(=C2C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CN(C2)CC(=O)N | C26H27N7O3S
